US07253158B2
rac-4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-cyclopropyl-benzamide
rac-4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-benzoic acid (0.70 g, 1.6 mmol) was dissolved in DMF and activated with the coupling reagent TPTU (0.48 g, 1.6 mmol) and Hünig's base (0.55 ml, 3.2 mmol) for 2 min. ⅛ of this activated mixture was delivered to a reaction tube on a parallel synthesizer containing cyclopropylamine (0.013 g, 0.22 mmol) and a further amount of Hünig's base (0.04 ml, 0.22 mmol) in DMF (3 ml). The reaction mixture was shaken for 2 h, concentrated under reduced pressure and purified directly using preparative RP(C18) chromatography: lyophilisate 40 mg; MS: m/e=476.1 (MH+), 493.1 (MNH4+).

reactant | rac-4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-benzoic acid | 1.6 mmol, 0.70 g | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C(=O)O)C=C1 | C20H21ClN2O5S
reactant | TPTU | 1.6 mmol, 0.48 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C=CC=CC1=O
reactant | Hünig's base | 3.2 mmol, 0.55 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 0.22 mmol, 0.013 g | C1(CC1)N | C3H7N
reactant | Hünig's base | 0.22 mmol, 0.04 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | rac-4-{[(4-Chloro-benzenesulfonyl)-(2-oxo-azepan-3-yl)-amino]-methyl}-N-cyclopropyl-benzamide | ClC1=CC=C(C=C1)S(=O)(=O)N(C1C(NCCCC1)=O)CC1=CC=C(C(=O)NC2CC2)C=C1 | C23H26ClN3O4S
